US08497281B2
Step 1: 8-bromo-5,6-dihydro-benzo[f]quinoline
The title compound is prepared from 6-bromo-2-tetralone and propargylamine following a procedure analogous to that described in Step 1 of Intermediates 1 and 2. Yield: 69% of theory; Mass spectrum (ESI+): m/z=260/262 (Br) [M+H]+.

reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | propargylamine | C(C#C)N | C3H5N
product | 8-bromo-5,6-dihydro-benzo[f]quinoline | Yield: 69% | BrC1=CC2=C(C=3C=CC=NC3CC2)C=C1 | C13H10BrN
